US06166035
a) Preparation of 1-(2,4,6-trimethoxybenzoyl)-4-chlorobutane
A solution of 91 g (0.384 mol) of tin tetrachloride in 112.5 ml of benzene is added over 1 h 30 min to a solution, maintained at about +5° C., of 50.4 g (0.3200 mol) of 1,3,5-trimethoxybenzene and 50.2 g (0.324 mol) of 5-chlorovaleryl chloride in 225 ml of benzene. The mixture is stirred overnight at room temperature and the reaction medium is poured into 325 ml of ice-cold water and 75 ml of 12N hydrochloric acid. The organic phase is separated out after settling has taken place, washed with water and dried over dry sodium sulphate.

reactant | tin tetrachloride | 0.384 mol, 91 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1,3,5-trimethoxybenzene | 0.3200 mol, 50.4 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | 5-chlorovaleryl chloride | 0.324 mol, 50.2 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | hydrochloric acid | 12N, 75 ml | Cl | ClH
solvent | benzene | 112.5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 225 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4,6-trimethoxybenzoyl)-4-chlorobutane | COC1=C(C(=O)CCCCCl)C(=CC(=C1)OC)OC | C14H19ClO4
